US06239131B1
Preparation of 3-[3-[1-(furan-2-yl)carbonylmethyl-2-oxo-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]benzoic acid
1-[1-(Furan-2-yl)carbonylmethyl-2-oxo-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea (187 mg) was dissolved in methanol (8.8 ml), aqueous lithium hydroxide monohydrate (68.3 mg) solution (4.4 ml) and tetrahydrofuran (4.4 ml) were added, the mixture was refluxed for one hour. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in water (50 ml), the solution was washed with diethyl ether, acidified with 1N hydrochloric acid,and extracted with methylene chloride. The organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure, and diisoproryl ether was added to the residue for trituration, collected by filtration, to thereby obtain 110 mg of the titled compound.

reactant | 1-[1-(Furan-2-yl)carbonylmethyl-2-oxo-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea | 187 mg | O1C(=CC=C1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C(C)(C)C)=O)NC(=O)NC2=CC(=CC=C2)C(=O)OCC)=O | C31H34N4O7
reactant | lithium hydroxide monohydrate | 68.3 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 4.4 ml | O1CCCC1 | C4H8O
solvent | methanol | 8.8 ml | CO | CH4O
product | 3-[3-[1-(furan-2-yl)carbonylmethyl-2-oxo-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]benzoic acid | 110 mg | O1C(=CC=C1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C(C)(C)C)=O)NC(NC=2C=C(C(=O)O)C=CC2)=O)=O | C29H30N4O7
